US07964607B2
6-[(3S,4S)-1-(cinnolin-3-ylmethyl)-4-methylpyrrolidin-3-yl]-1-cyclopentyl-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 1-cyclopentyl-6-[(3,4-trans)-4-methyl-1-(pyridin-3-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 1-cyclopentyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one and cinnoline-3-carbaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 8.49 (d, J=8.7 Hz, 1H), 8.16 (s, 1H), 8.01 (s, 1H), 7.93 (d, J=7.9 Hz, 1H), 7.83-7.81 (m, 1H), 7.79-7.71 (m, 1H), 5.16-5.09 (m, 1H), 4.47-4.44 (m, 1H), 4.35-4.32 (m, 1H), 3.49-3.45 (m, 2H), 3.10-3.07 (m, 1H), 2.87-2.71 (m, 2H), 2.49-2.48 (m, 1H), 2.23 (m, 1H), 2.11-1.87 (m, 5H), 1.73-1.63 (m, 2H), 1.22 (d, J=7.1 Hz, 3H). MS: (M+H m/z=430.1).

reactant | 1-cyclopentyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | C1(CCCC1)N1N=CC2=C1N=C(NC2=O)[C@@H]2CNC[C@H]2C | C15H21N5O
reactant | cinnoline-3-carbaldehyde | N1=NC(=CC2=CC=CC=C12)C=O | C9H6N2O
product | 6-[(3S,4S)-1-(cinnolin-3-ylmethyl)-4-methylpyrrolidin-3-yl]-1-cyclopentyl-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | N1=NC(=CC2=CC=CC=C12)CN1C[C@H]([C@@H](C1)C)C=1NC(C2=C(N1)N(N=C2)C2CCCC2)=O | C24H27N7O
